US04346088
(a) N-Methyl-N'-phenyl-chloroformamidine hydrochloride
After passing 6.3 g of phosgene into 40 ml of absolute tetrahydrofuran at room temperature, 8 g of 1-methyl-3-phenylthiourea are added, with stirring, the color of the suspension changing instantaneously to yellow. After adding 0.5 ml of dimethylformamide, the mixture is stirred for 20 hours at room temperature, nitrogen is then passed through the reaction mixture for about 30 minutes, in order to drive off the phosgene, and the crystals are filtered off and washed with tetrahydrofuran. Crystals with a melting point of 169° C. (with decomposition).

reactant | phosgene | 6.3 g | C(=O)(Cl)Cl | CCl2O
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | 1-methyl-3-phenylthiourea | 8 g | CNC(=S)NC1=CC=CC=C1 | C8H10N2S
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | N-Methyl-N'-phenyl-chloroformamidine hydrochloride | Cl.CNC(=NC1=CC=CC=C1)Cl | InChI=1S/C8H9ClN2.ClH/c1-10-8(9)11-7-5-3-2-4-6-7;/h2-6H,1H3,(H,10,11);1H
